US05496949
The process for producing pivaloyloxymethyl pyrazinecarboxylate is now described taking the use of the sodium salt as an example of said alkali metal pyrazinecarboxylate. Thus, pyrazinecarboxylic acid is dissolved in an aqueous solution containing an equimoler amount, with respect to the acid, of sodium hydroxide, water is then distilled off, and the residue is dried to give sodium pyrazinecarboxylate. To this sodium pyrazinecarboxylate is added 1-2 molar equivalents, with respect to sodium pyrazinecarboxylate, of chloromethyl pivalate, and, as the catalyst, 0.1-0.3 molar equivalent, with respect to sodium pyrazinecarboxylate, of a tertiary amine, e.g. triethylamine, and the reaction is conducted at 90°-120° C. for 3-10 hours, whereby pivaloyloxymethyl pyrazinecarboxylate is produced. As an alternative, pivaloyloxymethyl pyrazinecarboxylate can also be obtained without the aid of a catalyst by conducting the reaction in a solvent in which sodium pyrazinecarboxylate is at least partially soluble and which is inert to the reaction, for example dimethylformamide or N-methyl-2-pyrrolidone.

reactant | sodium pyrazinecarboxylate | N1=C(C=NC=C1)C(=O)[O-].[Na+]
reactant | chloromethyl pivalate | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | pivaloyloxymethyl pyrazinecarboxylate | N1=C(C=NC=C1)C(=O)OCOC(C(C)(C)C)=O | C11H14N2O4
